US08008307B2
Step c: [(3aR4R,6R,6aS)-6-({6-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]pyrimidin-4-yl}-amino)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl]methanol
A mixture of {(3aR,4R,6R,6aS)-6-[(6-chloropyrimidin-4-yl)amino]-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl}methanol (200 mg, 0.667 mmol) and (S)-(+)-1-aminoindan (0.188 mL, 1.47 mmol) were heated to 180° C. for 3 h in a sealed tube using MWI. The mixture was dissolved in DCM and the resulting suspension was washed with H2O followed by saturated ammonium chloride solution. The organic layer was dried over MgSO4, filtered and concentrated in vacuo. The residue was purified via silica gel chromatography eluting with a gradient of 0 to 10% MeOH in EtOAc to afford the title compound as an amorphous solid (218 mg, 82.4%). LC/MS: Rt=1.44 min, ES+ 397 (AA standard).

reactant | {(3aR,4R,6R,6aS)-6-[(6-chloropyrimidin-4-yl)amino]-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl}methanol | 0.667 mmol, 200 mg | ClC1=CC(=NC=N1)N[C@@H]1C[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CO | C13H18ClN3O3
reactant | (S)-(+)-1-aminoindan | 1.47 mmol, 0.188 mL | N[C@H]1CCC2=CC=CC=C12 | C9H11N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | [(3aR4R,6R,6aS)-6-({6-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]pyrimidin-4-yl}-amino)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl]methanol | 218 mg, 82.4% | [C@@H]1(CCC2=CC=CC=C12)NC1=CC(=NC=N1)N[C@@H]1C[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CO | C22H28N4O3
